US06548495B2
2-Nitro-5-(3-phenyl-pyrrol-1-yl)-phenylamine
The title compound was prepared from N-(5-amino-2-nitro-phenyl)-acetamide [prepared from commercially available 5-chloro-2-nitroaniline by the following sequence: i.) nucleophilic aromatic substitution with NaN3 in DMSO at 80° C. for 15 h; ii.) acetylation with AcCl in HOAc at 120° C. for 2 h according to Eur. J. Med. Chem. 1988, 23, 553; iii.) Staudinger-reduction with PPh3/H2O in THF at 23° C. for 1 h] and 2,5-dimethoxy-3-phenyl-tetrahydro-furan [CAS-no. 207119-66-2] in HOAc at 60° C. for 2 days according to the general procedure F. Obtained as a brown solid (414 mg). Deacetylation of this material was perfomed by stirring with 25% HCl in THF at 80° C. for 90 min. Obtained as a brown solid (179 mg).

reactant | N-(5-amino-2-nitro-phenyl)-acetamide | NC=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C8H9N3O3
reactant | 5-chloro-2-nitroaniline | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | AcCl | C(=O)(C)Cl | C2H3ClO
reactant | PPh3 H2O | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.O
reactant | 2,5-dimethoxy-3-phenyl-tetrahydro-furan | COC1OC(CC1C1=CC=CC=C1)OC | C12H16O3
solvent | DMSO | CS(=O)C | C2H6OS
solvent | HOAc | CC(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Nitro-5-(3-phenyl-pyrrol-1-yl)-phenylamine | [N+](=O)([O-])C1=C(C=C(C=C1)N1C=C(C=C1)C1=CC=CC=C1)N | C16H13N3O2
